US05475034
3-Benzoyl-2-nitrophenyl-N-3-(3,4-dimethoxyphenyl)propyl acetamide, Compound 13
A mixture of 0.028 mole of 3-benzoyl-2-nitrobenzeneacetic acid, 50 mL of thionyl chloride and 50 mL of benzene is heated at reflux. The dark solution is concentrated under vacuum. The residue is diluted with benzene and concentrated under vacuum (twice). A portion of the acid chloride (0.01 3 mole) in tetrahydrofuran is added to a solution of 3-amino (3,4-dimethoxyphenyl)propane (0.015 mole). The mixture is stirred at room temperature and then added to 200 mL of cold water. The resulting mixture is extracted with diethyl ether. The combined extracts are washed with water, dried over sodium sulfate and concentrated under reduced pressure. The residue is purified using standard procedures to give the product.

reactant | 3-benzoyl-2-nitrobenzeneacetic acid | 0.028 mole | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)CC(=O)O)[N+](=O)[O-] | C15H11NO5
reactant | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
reactant | 3-amino (3,4-dimethoxyphenyl)propane | 0.015 mole | NCCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3-Benzoyl-2-nitrophenyl-N-3-(3,4-dimethoxyphenyl)propyl acetamide | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)CC(=O)NCCCC1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C26H26N2O6
